US06960607B2
2-(5-Bromo-6-hydroxy-1-naphthyl)-1,3-benzoxazol-6-ol
Bromine (86 mg, 0.54 mmol) in acetic acid (2 mL) was added dropwise into solution of 2-(6-hydroxy-1-naphthyl)-1,3-benzoxazol-6-ol (0.15 g, 0.54 mmol) and acetic acid (9 mL). The reaction mixture was stirred for 2 h, poured into water and the precipitated solid filtered and dried. The product was recrystallized from acetone/EtOAc to give a yellow solid, m.p. 221-223° C.; MS m/e 354 (M−H)+

reactant | Bromine | 0.54 mmol, 86 mg | BrBr | Br2
reactant | 2-(6-hydroxy-1-naphthyl)-1,3-benzoxazol-6-ol | 0.54 mmol, 0.15 g | OC=1C=C2C=CC=C(C2=CC1)C=1OC2=C(N1)C=CC(=C2)O | C17H11NO3
reactant | water | O | H2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 9 mL | C(C)(=O)O | C2H4O2
product | 2-(5-Bromo-6-hydroxy-1-naphthyl)-1,3-benzoxazol-6-ol | BrC1=C2C=CC=C(C2=CC=C1O)C=1OC2=C(N1)C=CC(=C2)O | C17H10BrNO3
